US07470709B2
4-Amino-5-fluoro-3-(6-piperazin-1-yl-1H-benzoimidazol-2-yl)-1H-quinolin-2-one was taken up in ethyl trifluoroacetate and N,N-dimethylacetamide (DMA). The resulting solution was heated at 130° C. in a sealed tube for 30 minutes. The reaction was cooled to room temperature and quenched by addition of saturated aqueous sodium bicarbonate followed by pouring the mixture into water. The resulting solid was collected by filtration and washed with diethyl ether to afford 4-amino-5-fluoro-3-{6-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-1H-benzoimidazol-2-yl}-1H-quinolin-2-one (Rt 2.63 minutes, MH+=457.1), which was immediately taken up in THF. Borane-THF complex (3.3 equivalents) was added and the reaction was stirred at room temperature overnight. After quenching the excess borane with water, the mixture was extracted into ethyl acetate, dried over magnesium sulfate, filtered and concentrated to a brown solid which was purified by reverse phase HPLC to yield the desired compound. MH+=461.1.

reactant | 4-Amino-5-fluoro-3-(6-piperazin-1-yl-1H-benzoimidazol-2-yl)-1H-quinolin-2-one | NC1=C(C(NC2=CC=CC(=C12)F)=O)C1=NC2=C(N1)C=C(C=C2)N2CCNCC2 | C20H19FN6O
reactant | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 4-amino-5-fluoro-3-{6-[4-(2,2,2-trifluoro-acetyl)-piperazin-1-yl]-1H-benzoimidazol-2-yl}-1H-quinolin-2-one | NC1=C(C(NC2=CC=CC(=C12)F)=O)C1=NC2=C(N1)C=C(C=C2)N2CCN(CC2)C(C(F)(F)F)=O | C22H18F4N6O2
